US03947417
To a solution of 6.0 parts of ethyl 1-(2-benzoyl-4-chlorophenyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate in 70 volume parts of methanol is added 16.5 volume parts of 1N sodium hydroxide dropwise. The hydrolysis is completed after about 15 minutes. Then, acetic acid is added to the reaction mixture to make acidic and the solvent is distilled off under reduced pressure. To the residue is added water and the precipitate is collected by filtration. The procedure gives 1-(2-benzoyl-4-chlorophenyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid as crystals. Recrystallization from ether gives colorless prisms melting at 176°-177°C.

reactant | ethyl 1-(2-benzoyl-4-chlorophenyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CCl)C(=O)OCC | C19H15Cl2N3O3
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(2-benzoyl-4-chlorophenyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CCl)C(=O)O | C17H11Cl2N3O3
